### PR TITLE
New trace definitions

### PR DESCRIPTION
**Pull request by rooibosriot**
I propose these new trace definitions which feature/enable the following: 
1. An "exposed" transition validity predicate which explicitly includes label, incoming (receiving) message, state from, outgoing (sending) message,  state to as arguments. 
2. A cleaner definition of infinite and finite traces, reflecting the broader ideology that properties and types should be pulled apart - functions and type definitions should be on basic types, properties should only come in in the proofs
3. Boolean functions for computing predicates such as "no equivocation" as "has been sent" 
4. Definitions for equivocation (assuming that states "receive" all messages they use to transition).

### CODE REVIEW

File: vlsm.v [hunk 1]
```diff
@@ -277,6 +277,122 @@ Qed.
...
+
+Inductive finite_ptrace `{VLSM} :
+  list in_state_out -> Prop :=
+| finite_ptrace_empty : finite_ptrace []
+| finite_ptrace_singleton : forall (s : state), protocol_state_prop s -> finite_ptrace [(None, s, None)]
+| finite_ptrace_extend : forall  (hd : in_state_out) (tl : list in_state_out),
+    finite_ptrace (hd :: tl) ->
+    forall (hd' : in_state_out) (l : label),
+    verbose_valid_protocol_transition l (mid hd) (mid hd') (snd hd) (snd hd') ->
+    finite_ptrace (hd' :: hd :: tl).
```
Comment (traiansf) [inline vlsm.v]:
```
Inductive finite_ptrace_from `{VLSM} :
  state -> list in_state_out -> Prop :=
| finite_ptrace_empty : forall (s : state), protocol_state_prop s -> finite_ptrace_from s []
| finite_ptrace_extend : forall  (s : state) (tl : list in_state_out),
    finite_ptrace_from s tl ->  
    forall (s' : state) (iom oom : option proto_message) (l : label),
    verbose_valid_protocol_transition l s' s iom oom ->
    finite_ptrace_from  s' ((iom, s, oom) :: tl).


Lemma extend_right_finite_trace_from
  {message}
  `{V : VLSM message}
  : forall s1 ts s3 iom3 oom3 l3 (s2 := mid (List.last ts (None,s1,None))),
  finite_ptrace_from s1 ts ->
    verbose_valid_protocol_transition l3 s2 s3 iom3 oom3 ->
  finite_ptrace_from s1 (ts ++ [(iom3,s3,oom3)]).
Proof.
  intros s1 ts s3 iom3 oom3 l3 s2 Ht12 Hv23.
  induction Ht12.
  - simpl. apply finite_ptrace_extend with l3.
    + constructor. unfold verbose_valid_protocol_transition in Hv23. exists oom3. tauto.
    + assumption.
  - rewrite <- app_comm_cons. apply finite_ptrace_extend with l; try assumption.
    simpl in IHHt12. apply IHHt12.
    unfold s2 in *; clear s2.
    assert (Heq : (@mid (option (@proto_message message Sig)) (@state message Sig)
            (option (@proto_message message Sig))
            (@List.last
               (option (@proto_message message Sig) * @state message Sig *
                option (@proto_message message Sig)) ((iom, s, oom) :: tl)
               (@None (@proto_message message Sig), s', @None (@proto_message message Sig)))) = (@mid (option (@proto_message message Sig)) (@state message Sig)
     (option (@proto_message message Sig))
     (@List.last
        (option (@proto_message message Sig) * @state message Sig *
         option (@proto_message message Sig)) tl
        (@None (@proto_message message Sig), s, @None (@proto_message message Sig))))).
    { clear. destruct tl; try reflexivity.
      apply f_equal. admit.
    }
    rewrite <- Heq. assumption.
Admitted.


Inductive infinite_ptrace_from `{VLSM} :
  state -> Stream in_state_out -> Prop :=
| infinite_ptrace_extend : forall  (s : state) (tl : Stream in_state_out),
    infinite_ptrace_from s tl ->  
    forall (s' : state) (iom oom : option proto_message) (l : label),
    verbose_valid_protocol_transition l s' s iom oom ->
    infinite_ptrace_from  s' (Cons (iom, s, oom)  tl).
```
